* c:\users\pawan\esim-workspace\compare_test\compare_test.cir

.include avsdcmp_3v3_sky130.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
x1 net-_x1-pad1_ net-_x1-pad1_ vin vref vout gnd avsdcmp_3v3_sky130
v1 vref gnd  dc 2
v2  vin gnd sine(0 3.3 50 0 0)
v3 net-_x1-pad1_ gnd  dc 3.3
* u3  vout plot_v1
* u2  vin plot_v1
* u1  vref plot_v1
* s c m o d e
.tran 1e-03 40e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vout)
plot v(vin)
plot v(vref)
.endc
.end
