* c:\users\pawan\esim-workspace\sub_residue_amp\sub_residue_amp.cir

.include avsd_opamp.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
x1 net-_x1-pad1_ net-_x1-pad2_ net-_sc1-pad2_ net-_sc2-pad2_ vout gnd avsd_opamp
v2  vin gnd sine(0 3.3 100 0 0)
v1 v2 gnd  dc 2.5
v4 net-_x1-pad1_ gnd  dc 1.8
v3 gnd net-_x1-pad2_  dc 1.8
xsc1 v2 net-_sc1-pad2_ v2 sky130_fd_pr__res_generic_pd L=5.2 W=1.1
xsc2 vin net-_sc2-pad2_ vin sky130_fd_pr__res_generic_pd L=5.2 W=1.1
xsc3 net-_sc1-pad2_ vout net-_sc1-pad2_ sky130_fd_pr__res_generic_pd L=20.6 W=1.1
* u3  vout plot_v1
* u1  v2 plot_v1
* u2  vin plot_v1
* s c m o d e
.tran 1e-03 10e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vout)
plot v(v2)
plot v(vin)
.endc
.end
