* c:\users\pawan\esim-workspace\test_d_latch\test_d_latch.cir

* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ d_latch
* u5  vin ven rst net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ adc_bridge_3
v3 rst gnd  dc 3.3
v2  ven gnd pulse(0 3.3 0 0 0 2u 4u)
v1  vin gnd pulse(0 3.3 2u 0 0 1u 2u)
* u6  net-_u2-pad4_ q0 dac_bridge_1
* u7  q0 plot_v1
* u4  rst plot_v1
* u3  ven plot_v1
* u1  vin plot_v1
a1 [net-_u2-pad1_ ] [net-_u2-pad2_ ] [net-_u2-pad3_ ] [net-_u2-pad4_ ] u2
a2 [vin ven rst ] [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ ] u5
a3 [net-_u2-pad4_ ] [q0 ] u6
* Schematic Name:                             d_latch, NgSpice Name: d_latch
.model u2 d_latch(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-06 20e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(q0)
plot v(rst)
plot v(ven)
plot v(vin)
.endc
.end
