* c:\users\pawan\esim-workspace\test_flash\test_flash.cir

.include Flash_adc.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
v2  vin gnd sine(0 3.3 500000 0 0)
v1 vref gnd  dc 4
* u2  vin plot_v1
* u1  vref plot_v1
* u4  b0 plot_v1
* u5  b1 plot_v1
x1 vin vref b0 b1 Flash_adc
* s c m o d e
.tran 1e-06 50e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vin)
plot v(vref)
plot v(b0)
plot v(b1)
.endc
.end
